US07781428B2
2-(4-cyano-3-methylphenyl)-3-cyclopropyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid
The title compound was prepared from methyl 3-(cyclopropylmethylene)-4-oxochroman-7-carboxylate (Preparation 33), and 4-hydrazinyl-2-methylbenzonitrile hydrochloride (Preparation 2) according to Method B and Method C. The crude product was purified by reverse-phase HPLC (65 to 85% acetonitrile/water/0.05% trifluoroacetic acid) to give the title compound (yellow solid, 23 mg). The title compound was largely present as (±)-(3RS,3aSR)-2-(4-cyano-3-methylphenyl)-3-cyclopropyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (br. s., 1H), 7.94 (d, J=7.8 Hz, 1H), 7.58 (dd, J=8.2, 1.6 Hz, 1H), 7.56 (d, J=8.6 Hz, 1H), 7.47 (d, J=1.6 Hz, 1H), 7.23 (d, J=1.6 Hz, 1H), 7.11 (dd, J=8.6, 2.0 Hz, 1H), 4.84 (dd, J=10.5, 5.9 Hz, 1H), 4.45 (dd, J=12.9, 10.5 Hz, 1H), 4.31 (t, J=10.0 Hz, 1H), 3.89 (ddd, J=13.0, 9.9, 5.7 Hz, 1H), 2.42 (s, 3H), 0.71-0.81 (m, 1H), 0.62-0.70 (m, 1H), 0.49-0.58 (m, 1H), 0.35-0.43 (m, 1H), 0.17-0.24 (m, 1H). ES-MS m/z 374 (M+H).

reactant | methyl 3-(cyclopropylmethylene)-4-oxochroman-7-carboxylate | C1(CC1)C=C1COC2=CC(=CC=C2C1=O)C(=O)OC | C15H14O4
reactant | 4-hydrazinyl-2-methylbenzonitrile hydrochloride | Cl.N(N)C1=CC(=C(C#N)C=C1)C
product | 2-(4-cyano-3-methylphenyl)-3-cyclopropyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid | 23 mg | C(#N)C1=C(C=C(C=C1)N1N=C2C(C1C1CC1)COC=1C=C(C=CC12)C(=O)O)C | C22H19N3O3
